US05324618
(7) Synthesis of Compound [I-c]: 3,3,7,7-tetrakis(4-hydroxyphenyl)bicyclo[3.3.0]octane
Compound [I-c] was synthesized in the same manner as in Synthesis Example (5) except that 1,4-cyclohexanedione was replaced by 27.6 g (0.2 mole) of bicyclo[3.3.0]octane-3,7-dione (m.p. 85° C.).

reactant | 1,4-cyclohexanedione | C1(CCC(CC1)=O)=O | C6H8O2
reactant | bicyclo[3.3.0]octane-3,7-dione | 0.2 mole, 27.6 g | C12CC(CC2CC(C1)=O)=O | C8H10O2
product | 3,3,7,7-tetrakis(4-hydroxyphenyl)bicyclo[3.3.0]octane | OC1=CC=C(C=C1)C1(CC2CC(CC2C1)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C32H30O4
